US08420821B2
Under an argon atmosphere, a zinc powder (1.44 g) was suspended in tetrahydrofuran (3.6 ml), 1,2-dibromoethane (38 mg) and trimethylsilyl chloride (43 mg) were successively added at 60° C., and the mixture was stirred for 30 min. A solution of 3-chloro-2-fluorobenzyl chloride (3.58 g) in tetrahydrofuran (9 ml) was added dropwise at 60° C. to the solution prepared above. The mixture was further stirred under heating for 1 hr to give a solution of 3-chloro-2-fluorobenzylzinc chloride in tetrahydrofuran.

reactant | zinc | 1.44 g | [Zn] | Zn
reactant | 1,2-dibromoethane | 38 mg | BrCCBr | C2H4Br2
reactant | trimethylsilyl chloride | 43 mg | C[Si](C)(C)Cl | C3H9ClSi
reactant | 3-chloro-2-fluorobenzyl chloride | 3.58 g | ClC=1C(=C(CCl)C=CC1)F | C7H5Cl2F
solvent | tetrahydrofuran | 3.6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
product | 3-chloro-2-fluorobenzylzinc chloride | [Cl-].ClC=1C(=C(C[Zn+])C=CC1)F | InChI=1S/C7H5ClF.ClH.Zn/c1-5-3-2-4-6(8)7(5)9;;/h2-4H,1H2;1H;/q;;+1/p-1
